US08080541B2
To a solution of 447 mg (1.6 mmol) 2-(2-methoxy-3-methyl-4-trifluoromethyl-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole in 4 ml nitromethane was added 0.78 ml (12 mmol) methyl iodide and the mixture heated in a sealed tube to 60° C. for 18 h. The brown solution was diluted with tert-butyl methyl ether, the suspension filtered and the precipitate washed with tert-butyl methyl ether and dried. 2-(2-Methoxy-3-methyl-4-trifluoromethyl-phenyl)-3,4,4-trimethyl-4,5-dihydro-oxazol-3-ium iodide was obtained as off-white powder: MS (ISP): 302.1 (M+).

reactant | 2-(2-methoxy-3-methyl-4-trifluoromethyl-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole | 1.6 mmol, 447 mg | COC1=C(C=CC(=C1C)C(F)(F)F)C=1OCC(N1)(C)C | C14H16F3NO2
reactant | methyl iodide | 12 mmol, 0.78 ml | CI | CH3I
solvent | nitromethane | 4 ml | [N+](=O)([O-])C | CH3NO2
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
product | 2-(2-Methoxy-3-methyl-4-trifluoromethyl-phenyl)-3,4,4-trimethyl-4,5-dihydro-oxazol-3-ium iodide | [I-].COC1=C(C=CC(=C1C)C(F)(F)F)C=1OCC([N+]1C)(C)C | InChI=1S/C15H19F3NO2.HI/c1-9-11(15(16,17)18)7-6-10(12(9)20-5)13-19(4)14(2,3)8-21-13;/h6-7H,8H2,1-5H3;1H/q+1;/p-1
